US07169925B2
Step F4: 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid diethylcarbamoyloxymethyl ester
Stir a mixture of 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid (2.0 g, 8.0 mmol), chloromethyl diethylcarbamate (1.7 g, 10.4 mmol) and K2CO3 in DMF (50 mL) at ambient temperature overnight. Add EtOAc (400 mL), to the reaction mixture, wash the organic layer with brine solution (400 mL) and concentrate to an oil. Purify by flash chromatography over silica gel (40 g) eluting with EtOAc and then 10% MeOH/EtOAc. Collect like fractions and concentrate under vacuum to yield an oil. Crystallize from heptane-ether to obtain 1.1 g (36%) of the title compound as a white powder: MS 383(M+H).

reactant | 3-(4-pyridinylamino)-1H-indole-2-carboxylic acid | 8.0 mmol, 2.0 g | N1=CC=C(C=C1)NC1=C(NC2=CC=CC=C12)C(=O)O | C14H11N3O2
reactant | chloromethyl diethylcarbamate | 10.4 mmol, 1.7 g | C(C)N(C(OCCl)=O)CC | C6H12ClNO2
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | 3-(Pyridin-4-ylamino)-1H-indole-2-carboxylic acid diethylcarbamoyloxymethyl ester | 1.1 g, 36% | C(C)N(C(=O)OCOC(=O)C=1NC2=CC=CC=C2C1NC1=CC=NC=C1)CC | C20H22N4O4
